US07947727B2
Intermediate 23: 2,6-Dibromo-4-methylbenzaldehyde (4-fluorophenyl)hydrazone
2,6-Dibromo-4-methylbenzaldehyde (600 g, 2.16 mmol) (which may be prepared according to the method of Lulinski and Serwatowski, Journal of Organic Chemistry, 68, (2003), 5384), (4-fluorophenyl)hydrazine hydrochloride (351 mg, 2.16 mmol) and sodium acetate (180 mg, 2.19 mmol) were heated in methanol (15 ml) under reflux for 2 hours in a nitrogen atmosphere. The methanol was evaporated and the residue partitioned between dichloromethane (30 ml) and aqueous brine (30 ml). The organic phase was separated, combined with additional dichloromethane extracts (2×15 ml), washed with aqueous sodium bicarbonate (2×15 ml), passed through a hydrophobic frit and evaporated to give the title compound (809 mg).

reactant | 2,6-Dibromo-4-methylbenzaldehyde | 2.16 mmol, 600 g | BrC1=C(C=O)C(=CC(=C1)C)Br | C8H6Br2O
reactant | (4-fluorophenyl)hydrazine hydrochloride | 2.16 mmol, 351 mg | Cl.FC1=CC=C(C=C1)NN
reactant | sodium acetate | 2.19 mmol, 180 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 2,6-Dibromo-4-methylbenzaldehyde (4-fluorophenyl)hydrazone | 809 mg | FC1=CC=C(C=C1)NN=CC1=C(C=C(C=C1Br)C)Br | C14H11Br2FN2
